US09212173B2
Step 1—ethyl 1-(tetrahydro-2H-pyran-2-yloxy)cyclopropanecarboxylate
To a solution of ethyl 1-hydroxycyclopropanecarboxylate (1040 mg, 8.000 mmol) and PTSA (137 mg, 0.800 mmol) in DCM (20 mL) was added a solution of DHP (1344 mg, 16.00 mmol) in DCM (10 mL) dropwise at 0° C. The mixture was stirred for 20 h at room temperature. After concentration, the residue was purified by silica gel column chromatography eluting with petroleum ether/ethyl acetate (10/1) to afford the title compound (1500 mg, 85%) as oil. LC-MS (ESI): m/z=215 (M+H)+.

reactant | ethyl 1-hydroxycyclopropanecarboxylate | 8.000 mmol, 1040 mg | OC1(CC1)C(=O)OCC | C6H10O3
reactant | PTSA | 0.800 mmol, 137 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | DHP | 16.00 mmol, 1344 mg | C1CC=COC1 | C5H8O
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 1—ethyl 1-(tetrahydro-2H-pyran-2-yloxy)cyclopropanecarboxylate | 1500 mg, 85% | O1C(CCCC1)OC1(CC1)C(=O)OCC | C11H18O4
